US08383629B2
To a stirred solution of (E)-7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indene-1,4′-piperidin]-3(2H)-one (20 mg, 0.042 mmol) in MeOH (2 mL) and THF (2 mL) was added solid NaBH4 (12 mg). The mixture was stirred at rt for 3 h. The mixture was diluted with 10% aq citric acid and extracted with ether (2×30 mL). The combined ether extracts were dried over MgSO4 and concentrated. The residue was purified by prep HPLC to afford (±)-(E)-1-(7-bromo-3-hydroxy-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-yl)-3-(2-(trifluoromethyl)phenyl)prop-2-en-1-one (1.8 mg, 9%) as a solid. LC-MS Method 1 tR=1.83, min, m/z=480, 482; 1H NMR (CDCl3) 1.39 (m, 2H), 1.63 (m, 1H), 2.12 (m, 1H), 2.5-3.0 (4H), 3.36 (m, 1H), 4.16 (m, 1H), 4.82 (m, 1H), 5.23 (br s, 1H), 6.86 (d, 1H), 7.18 (m, 1H), 7.3-7.8 (6H), 7.95 (d, 1H).

reactant | (E)-7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)spiro[indene-1,4′-piperidin]-3(2H)-one | 0.042 mmol, 20 mg | BrC=1C=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC=C3)C(F)(F)F)=O)C12)=O | C23H19BrF3NO2
reactant | NaBH4 | 12 mg | [BH4-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | (±)-(E)-1-(7-bromo-3-hydroxy-2,3-dihydrospiro[indene-1,4′-piperidine]-1′-yl)-3-(2-(trifluoromethyl)phenyl)prop-2-en-1-one | 1.8 mg, 9% | BrC=1C=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC=C3)C(F)(F)F)=O)C12)O | C23H21BrF3NO2
